US07888364B2
2 g of 4-bromo-2-methylbenzonitrile was reacted with 1-mercapto-2-propanol via Procedure Q to afford 4-(2-hydroxypropylthio)-2-methylbenzonitrile. 950 mg of 4-(2-hydroxypropylthio)-2-methylbenzonitrile was reacted via Procedure T to give 4-(2-hydroxypropylthio)-2-methylbenzoic acid. 1.0 g of 4-(2-hydroxypropylthio)-2-methylbenzoic acid was reacted via Procedure R to give 4-(2-hydroxypropylsulfonyl)-2-methylbenzoic acid. 100 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(2-hydroxypropylsulfonyl)-2-methylbenzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-hydroxypropylsulfonyl)-2-methylbenzamide. MS (Q1) 445.3 (M)+.

reactant | 4-bromo-2-methylbenzonitrile | 2 g | BrC1=CC(=C(C#N)C=C1)C | C8H6BrN
reactant | 1-mercapto-2-propanol | SCC(C)O | C3H8OS
product | 4-(2-hydroxypropylthio)-2-methylbenzonitrile | OC(CSC1=CC(=C(C#N)C=C1)C)C | C11H13NOS
